US08067445B2
Step 1: (2′-Formyl-6-methoxy-4′-quinolin-6-yl-biphenyl-3-yl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: (4′-bromo-2′-formyl-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester and 6-quinolineboronic acid pinacol ester.

reactant | (4′-bromo-2′-formyl-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)Br)C=O)=O | C18H17BrO4
reactant | 6-quinolineboronic acid pinacol ester | N1=CC=CC2=CC(=CC=C12)B1OC(C)(C)C(C)(C)O1 | C15H18BNO2
product | (2′-Formyl-6-methoxy-4′-quinolin-6-yl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=C2C=CC=NC2=CC1)C=O)=O | C27H23NO4
